US05217964
Step a: 4N-(2-Hydroxyethylamino)butyronitrile
Dissolve ethanolamine (11.3 g, 0.185 mol) and 4-bromobutyronitrile (32.6 g, 0.22 mol) in ethanol (700 mL) and heat at reflux for 18 hours. Evaporate the solvent in vacuo and purify by distillation to give the title compound.

reactant | ethanolamine | 0.185 mol, 11.3 g | C(O)CN | C2H7NO
reactant | 4-bromobutyronitrile | 0.22 mol, 32.6 g | BrCCCC#N | C4H6BrN
solvent | ethanol | 700 mL | C(C)O | C2H6O
product | (2-Hydroxyethylamino)butyronitrile | OCCNC(C#N)CC | C6H12N2O
